US06545009B1
In the same manner as in Example 28, methyl 3-thiocarbamoylbenzoate was reacted with 2,4-difluorophenacyl bromide to obtain methyl 3-[4-(2,4-difluorophenyl)-2-thiazolyl]benzoate. The product was recrystallized from ethanol. Yield: 69%. Pale yellow prisms. Melting point: 121 to 122° C.

reactant | methyl 3-thiocarbamoylbenzoate | C(N)(=S)C=1C=C(C(=O)OC)C=CC1 | C9H9NO2S
reactant | 2,4-difluorophenacyl bromide | FC1=C(C(CBr)=O)C=CC(=C1)F | C8H5BrF2O
product | methyl 3-[4-(2,4-difluorophenyl)-2-thiazolyl]benzoate | Yield: 69% | FC1=C(C=CC(=C1)F)C=1N=C(SC1)C=1C=C(C(=O)OC)C=CC1 | C17H11F2NO2S
